### ISSUE TITLE
Dependent if rewrite causes dependent goal to dissapear, giving kernel declaration has metavars

### ISSUE THREAD

**Issue by alexjbest** [leanprover/lean4#2035]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

dependent if rewrite causes dependent goal to dissapear

### Steps to Reproduce

```lean
variable {α : Type} [LT α] {c : α} [∀ m : α, Decidable (m=c)]

theorem c_lt {a : α} (hab : a = c) : c < a := sorry

def id_of_c_lt (m : α) : c < m → α := fun _ => m

theorem minimal_error (M m : α) (hm : c < m) (m_eq_M : m = M) (M_eq_c : M = c)
  (H : id_of_c_lt M (c_lt M_eq_c) = c) :
  (if h : m = c then id_of_c_lt m (c_lt h) else m) = c :=
by
  rw [dif_pos]
  . simp only [m_eq_M]
    rw [m_eq_M] at hm --useless rewrite of an assumption makes the hc case disappear
    exact H
```

**Expected behavior:** a second (probably unprovable goal remains

**Actual behavior:** (kernel) declaration has metavariables 'minimal_error'

**Reproduces how often:** 100%

### Versions

latest nightly (1-12)

**Comment by alexjbest** [comment]
This might be the same issue as #1980
